US07323570B2
A solution of diisopropylamine (7.0 mL, 50.0 mmol) in THF (100 mL) at −78° C. was treated with 2.5M n-butyllithium in hexanes (20 mL, 50.0 mmol), stirred for 15 minutes, treated dropwise with a solution of 2-fluoro-5-methylpyridine (5.55 g, 50.0 mmol) in THF (20.0 mL), stirred for 4 hours, treated slowly with a solution of iodine (12.7 g. 50.0 mmol) in THF (50 mL), quenched with water, and extracted with diethyl ether. The combined extracts were washed sequentially with Na2S2O3, water, and brine, dried (MgSO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 6:1 hexanes/diethyl ether to provide 7.24 g (61%) of 2-fluoro-3-iodo-5-methylpyridine.

reactant | diisopropylamine | 50.0 mmol, 7.0 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.5M | C(CCC)[Li]
reactant | 2-fluoro-5-methylpyridine | 50.0 mmol, 5.55 g | FC1=NC=C(C=C1)C | C6H6FN
reactant | iodine | 50.0 mmol, 12.7 g | II | I2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20.0 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-fluoro-3-iodo-5-methylpyridine | 7.24 g, 61% | FC1=NC=C(C=C1I)C | C6H5FIN
